US09107916B2
B. 2-[5-[[4-chloro-2-(cyclopropylmethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-2-(cyclopropylmethoxy)phenyl]methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C20H17ClN4O2, 381. Found, 381.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-2-(cyclopropylmethoxy)phenyl]methanol | ClC1=CC(=C(C=C1)CO)OCC1CC1 | C11H13ClO2
product | 2-[5-[[4-chloro-2-(cyclopropylmethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OCC1CC1 | C20H17ClN4O2
